US06667301B2
To a mixture of 4-(4-{[(S)-2-(4-methanesulfonylphenyl)-1-methylethyl]-propylamino)butyl)-[1,4]diazepan-5-one dihydrochloride (0.15 g, 0.3 mmole) in toluene (5 mL) and saturated sodium carbonate (2 mL) was added isoxazole-5-carbonyl chloride (0.04 g, 0.31 mmole). The reaction mixture was stirred at room temperature for 4 hours. The mixture was diluted with water and extracted with ethyl acetate. The organic phase was washed with saturated sodium chloride, dried (magnesium sulfate), and concentrated to give 4-(4-{ethyl-[2-(4-methanesulfonyl-phenyl)-1-methylethyl]amino}butyl)-1-(isoxazole-5-carbonyl)-[1,4]diazepan-5-one as a hygroscopic hydrochloride salt (0.14 g) in ethyl acetate/diethyl ether, 316, M+H=505.

reactant | 4-(4-{[(S)-2-(4-methanesulfonylphenyl)-1-methylethyl]-propylamino)butyl)-[1,4]diazepan-5-one dihydrochloride | 0.3 mmole, 0.15 g | Cl.Cl.CS(=O)(=O)C1=CC=C(C=C1)C[C@H](C)N(CCCCN1CCNCCC1=O)CCC
reactant | isoxazole-5-carbonyl chloride | 0.31 mmole, 0.04 g | O1N=CC=C1C(=O)Cl | C4H2ClNO2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | sodium carbonate | 2 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
product | 4-(4-{ethyl-[2-(4-methanesulfonyl-phenyl)-1-methylethyl]amino}butyl)-1-(isoxazole-5-carbonyl)-[1,4]diazepan-5-one | C(C)N(CCCCN1CCN(CCC1=O)C(=O)C1=CC=NO1)C(CC1=CC=C(C=C1)S(=O)(=O)C)C | C25H36N4O5S
